US07592143B2
Isolation of Transferrin Receptor from Intact Cells Using FITC-Tagged Gambogic Acid:
Jurkat cells were grown in RPMI 1640 media containing 25 mM Hepes and L-glutamine (Gibco) supplemented with 10% FCS and penicillin/streptomycin and harvested by centrifugation (200×g, 10 minutes) when they reached a concentration of 1×106 cells/mL. 1×109 Jurkat cells were resuspended in 100 mL RPMI 1640 media with 0.5% FCS. Cells were then treated with either 1% DMSO or 5 μM 5-[(5-gambogylaminopentyl)-thioureidyl]-fluorescein (Example 10) in DMSO for 30 minutes at 37° C. Cells were washed one time with 40 mL phosphate buffered saline (PBS) and lysed in 8 mL RIPA buffer (10×RIPA supplied by Upstate) and 0.1% Protease Inhibitor Cocktail (Sigma). The lysed cells were spun at 20,000×g for 10 minutes and the supernatant collected and referred to as “Jurkat lysate.”

reactant | Hepes | 25 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | L-glutamine | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | penicillin streptomycin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+].C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O
reactant | DMSO | CS(=O)C | C2H6OS
product | FITC | C1=CC2=C(C=C1N=C=S)C(=O)OC23C4=C(C=C(C=C4)O)OC5=C3C=CC(=C5)O | C21H11NO5S
